US03946009
By replacing the 2-hydroxy-3-methyl-5-bromopyrazine used in Step A of Preparation 87 by an equivalent quantity of 2-hydroxy-3-phenyl-5-bromopyrazine and following substantially the same procedure there is obtained 2,5-dibromo-3-phenylpyrazine.

reactant | 2-hydroxy-3-methyl-5-bromopyrazine | OC1=NC=C(N=C1C)Br | C5H5BrN2O
reactant | 2-hydroxy-3-phenyl-5-bromopyrazine | OC1=NC=C(N=C1C1=CC=CC=C1)Br | C10H7BrN2O
product | 2,5-dibromo-3-phenylpyrazine | BrC1=NC=C(N=C1C1=CC=CC=C1)Br | C10H6Br2N2
